US04511573
To 30 ml of a 2M solution of ethylmagnesium bromide in tetrahydrofuran under nitrogen at 0°-5° is added dropwise over 30 minutes a solution of 10.0 g of 2-(3-pyridyl)indole in 60 ml of tetrahydrofuran. The mixture is stirred for 0.5 hour at 0°-5° followed by the dropwise addition of 17.6 g of 1-tetrahydropyranyloxy-8-bromooctane in 50 ml of tetrahydrofuran. After stirring at 0°-10° for 1 hour and at room temperature for 0.5 hour, the reaction mixture is poured into ice-water and extracted with ether. The ether extract is washed with water, dried over MgSO4 and evaporated to dryness. The residue is dissolved in 100 ml of 3N hydrochloric acid, the resulting mixture is kept at room temperature for 0.5 hour, washed with ether, basified with aqueous with 3N sodium hydroxide solution and extracted with methylene chloride. The methylene chloride solution is evaporated to dryness to give 3-(8-hydroxyoctyl)-2-(3-pyridyl)-indole.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 2-(3-pyridyl)indole | 10.0 g | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1 | C13H10N2
reactant | 1-tetrahydropyranyloxy-8-bromooctane | 17.6 g | O1C(CCCC1)OCCCCCCCCBr | C13H25BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(8-hydroxyoctyl)-2-(3-pyridyl)-indole | OCCCCCCCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C21H26N2O
